US07851493B2
To a refluxing mixture of 21.5 g 4-methyl-2-(4-trifluoromethyl-phenyl)-oxazole-5-carboxylic acid ethyl ester (synthesized according to the method described for 5-chloromethyl-4-methyl-2-[2-(4-trifluoromethyl-phenyl)-ethyl]-oxazole from 4-trifluoromethyl-benzamide and 2-chloroacetoacetate) in 180 ml tetrachloro-methane were added portionwise a mixture of 15.4 g N-bromosuccinimide and 4.73 g 2,2′-azobis(2-methylpropionitrile). The reaction mixture was heated under reflux for five hours. The cooled reaction mixture was filtered over a celite pad, the filtrate was evaporated in vacuo and the resulting residue was purified by chromatography on silica gel with the eluent petroleum benzene:dichloromethane=7:3 to provide 18.5 g 4-bromomethyl-2-(4-trifluoromethyl-phenyl)-oxazole-5-carboxylic acid ethyl ester.

reactant | 4-methyl-2-(4-trifluoromethyl-phenyl)-oxazole-5-carboxylic acid ethyl ester | 21.5 g | C(C)OC(=O)C1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)C | C14H12F3NO3
reactant | 5-chloromethyl-4-methyl-2-[2-(4-trifluoromethyl-phenyl)-ethyl]-oxazole | ClCC1=C(N=C(O1)CCC1=CC=C(C=C1)C(F)(F)F)C | C14H13ClF3NO
reactant | 4-trifluoromethyl-benzamide | FC(C1=CC=C(C(=O)N)C=C1)(F)F | C8H6F3NO
reactant | 2-chloroacetoacetate | ClC(C(=O)[O-])C(=O)C
reactant | N-bromosuccinimide | 15.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis(2-methylpropionitrile) | 4.73 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | tetrachloro-methane | 180 ml | ClC(Cl)(Cl)Cl | CCl4
product | 4-bromomethyl-2-(4-trifluoromethyl-phenyl)-oxazole-5-carboxylic acid ethyl ester | 18.5 g | C(C)OC(=O)C1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)CBr | C14H11BrF3NO3
